US04835154
(vi) 1-(3,5-Difluorobenzyl)-5-[(4-methyl-1-piperazinyl)carbonyl]-2-mercaptoimidazole
To a solution of 1-(3,5-difluorobenzyl)-2-mercaptoimidazole-5-carboxylic acid (2.70 g, 0.01 moles) in tetrahydrofuran (25 ml) was added N-hydroxysuccinimide (1.27 g, 0.011 mole) followed by dropwise addition of dicyclohexylcarbodiimide (2.06 g, 0.01 mole) in tetrahydrofuran (30 ml). A solution of N-methylpiperazine (1.22 ml, 0.011 mole) in tetrahydrofuran (10 ml) was added and the mixture stirred at 25° C. for 2 hours and then at 40° C. for 16 hours. Additional N-methylpiperazine (1.0 ml, 0.009 mole) was added and the reaction mixture was stirred at 40° C. for 1.5 hours. The reaction mixture was filtered and the solvent removed under vacuum. The residue was dissolved in ethyl acetate and was washed with dilute sodium carbonate, water, and brine. The solution was dried and the solvent removed under vacuum. The resulting solid was triturated with ether and the product was filtered and dried to give a solid, m.p.: 243°-244° C. (2.10 g, 60%).

reactant | 1-(3,5-difluorobenzyl)-2-mercaptoimidazole-5-carboxylic acid | 0.01 moles, 2.70 g | FC=1C=C(CN2C(=NC=C2C(=O)O)S)C=C(C1)F | C11H8F2N2O2S
reactant | N-hydroxysuccinimide | 0.011 mole, 1.27 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | dicyclohexylcarbodiimide | 0.01 mole, 2.06 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | N-methylpiperazine | 0.011 mole, 1.22 ml | CN1CCNCC1 | C5H12N2
reactant | N-methylpiperazine | 0.009 mole, 1.0 ml | CN1CCNCC1 | C5H12N2
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 1-(3,5-Difluorobenzyl)-5-[(4-methyl-1-piperazinyl)carbonyl]-2-mercaptoimidazole | FC=1C=C(CN2C(=NC=C2C(=O)N2CCN(CC2)C)S)C=C(C1)F | C16H18F2N4OS
